### PR TITLE
feat(Topology/Compactness/CompactSystem): introduce compact Systems

### PR DESCRIPTION
**Pull request by pfaffelh**
A compact system is a set systems with the property that, whenever a countable intersections of sets in the set system is empty, there is a finite subset of sets with empty intersection. These are needed e.g. in measure theory if one wants to show sigma-additivity of a set function on a ring. 

* Main result: The set of sets which are either compact and closed, or `univ`, is a compact system. 
* Introduce `Dissipate s x := ⋂ y ≤ x, s y` (Data/Set/Dissipate), which is parallel to Data/Set/Accumulate.

Co-authored-by: Rémy Degenne remydegenne@gmail.com

### CODE REVIEW

File: Mathlib/Topology/Compactness/CompactSystem.lean [hunk 1]
```diff
@@ -0,0 +1,174 @@
...
+  ∀ C : ℕ → Set α, (∀ i, p (C i)) → ⋂ i, C i = ∅ → ∃ (n : ℕ), Dissipate C n = ∅
+
+end definition
+
+namespace IsCompactSystem
+
+/-- In a compact system, given a countable family with empty intersection, we choose a finite
+subfamily with empty intersection. -/
+noncomputable
+def max_of_empty (hp : IsCompactSystem p) (hC : ∀ i, p (C i))
```
Comment (sgouezel) [inline Mathlib/Topology/Compactness/CompactSystem.lean:44]: I find this name strange (there is no `max` around). Also, would it make sense to use `Nat.find` in the definition, so that the witness is the smallest possible one?

File: Mathlib/Topology/Compactness/CompactSystem.lean [hunk 2]
```diff
@@ -0,0 +1,174 @@
...
+    (hC_empty : ⋂ i, C i = ∅) : ℕ :=
+  (hp C hC hC_empty).choose
+
+lemma iInter_eq_empty (hp : IsCompactSystem p) (hC : ∀ i, p (C i))
```
Comment (sgouezel) [inline Mathlib/Topology/Compactness/CompactSystem.lean:48]:
```suggestion
lemma dissipate_eq_empty (hp : IsCompactSystem p) (hC : ∀ i, p (C i))
```

File: Mathlib/Topology/Compactness/CompactSystem.lean [hunk 3]
```diff
@@ -0,0 +1,174 @@
...
+    simp_rw [← subset_empty_iff, Dissipate] at g ⊢
+    apply le_trans _ g
+    intro x
+    rw [mem_iInter₂, mem_iInter₂]
+    exact fun h i hi ↦ h i hi.le
+
+theorem iff_directed (hpi : ∀ (s t : Set α), p s → p t → p (s ∩ t)) :
+    (IsCompactSystem p) ↔
+    (∀ (C : ℕ → Set α), ∀ (_ : Directed (fun (x1 x2 : Set α) => x1 ⊇ x2) C), (∀ i, p (C i)) →
+      ⋂ i, C i = ∅ → ∃ (n : ℕ), C n = ∅) := by
```
Comment (sgouezel) [inline Mathlib/Topology/Compactness/CompactSystem.lean:84]:
```suggestion
    IsCompactSystem p ↔
    ∀ (C : ℕ → Set α), ∀ (_ : Directed (fun (x1 x2 : Set α) => x1 ⊇ x2) C), (∀ i, p (C i)) →
      ⋂ i, C i = ∅ → ∃ (n : ℕ), C n = ∅ := by
```
You don't need so many parentheses. More importantly, removing them makes the statement more readable. Same thing elsewhere.

File: Mathlib/Topology/Compactness/CompactSystem.lean [hunk 4]
```diff
@@ -0,0 +1,174 @@
...
+    (IsCompactSystem p) ↔
+    ∀ (C : ℕ → Set α), ∀ (_ : Directed (fun (x1 x2 : Set α) => x1 ⊇ x2) C), (∀ i, p (C i)) →
+    (∀ (n : ℕ), (C n).Nonempty) → (⋂ i, C i).Nonempty  := by
+  rw [IsCompactSystem.iff_directed hpi]
+  refine ⟨fun h1 C h3 h4 ↦ ?_, fun h1 C h3 s ↦ ?_⟩ <;> rw [← not_imp_not] <;> push_neg
+  · exact h1 C h3 h4
+  · exact h1 C h3 s
+
+/-- Any subset of a compact system is a compact system. -/
+theorem of_supset {C D : (Set α) → Prop} (hD : IsCompactSystem D) (hCD : ∀ s, C s → D s) :
```
Comment (sgouezel) [inline Mathlib/Topology/Compactness/CompactSystem.lean:101]:
```suggestion
theorem of_imp {C D : Set α → Prop} (hD : IsCompactSystem D) (hCD : ∀ s, C s → D s) :
```
The condition `hCD` is an implication, not an inclusion. If you had formulated things with a set of sets, your formulation would be correct. Another possible name is `mono`.

File: Mathlib/Topology/Compactness/CompactSystem.lean [hunk 5]
```diff
@@ -0,0 +1,174 @@
...
+  IsCompactSystem C := fun s hC hs ↦ hD s (fun i ↦ hCD (s i) (hC i)) hs
+
+section ClosedCompact
```
Comment (sgouezel) [inline Mathlib/Topology/Compactness/CompactSystem.lean:104]:
```suggestion
section IsCompactIsClosed
```
Better follow the symbols, for ease of discoverability.

File: Mathlib/Topology/Compactness/CompactSystem.lean [hunk 6]
```diff
@@ -0,0 +1,174 @@
...
+
+variable (α : Type*) [TopologicalSpace α]
+
+/-- The set of sets which are either compact and closed, or `univ`, is a compact system. -/
+theorem isClosedCompactOrUnivs :
```
Comment (sgouezel) [inline Mathlib/Topology/Compactness/CompactSystem.lean:109]: The naming convention is that there is no underscores in definitions, and then in theorems the atoms coming from the definition are separated by underscores. Here, this is a theorem, so you should have separated atoms. Since you are in the `IsCompactSystem`, this could be called `of_isCompact_isClosed_or_univ`, for instance`.

File: Mathlib/Topology/Compactness/CompactSystem.lean [hunk 7]
```diff
@@ -0,0 +1,174 @@
...
+        rw [g]
+        simp only [Set.mem_univ]
+    apply g <| IsCompact.nonempty_iInter_of_directed_nonempty_isCompact_isClosed s' hs'
+      (fun j ↦ h2 j) htco htcl
+  · simp only [ne_eq, coe_setOf, nonempty_subtype, not_exists, not_not, s'] at h
+    simp only [nonempty_iInter, s', h]
+    simp only [Set.mem_univ, implies_true, exists_const, s']
+
+/-- The set of compact and closed sets is a compact system. -/
+theorem isClosedCompacts :
```
Comment (sgouezel) [inline Mathlib/Topology/Compactness/CompactSystem.lean:157]:
```suggestion
theorem of_isCompact_isClosed :
```

File: Mathlib/Topology/Compactness/CompactSystem.lean [hunk 8]
```diff
@@ -0,0 +1,174 @@
...
+    IsCompactSystem (fun s : Set α ↦ IsCompact s ∧ IsClosed s) :=
+  IsCompactSystem.of_supset (isClosedCompactOrUnivs α) (fun _ hs ↦ Or.inl hs)
+
+theorem isCompacts (h : ∀ {s : Set α}, IsCompact s → IsClosed s) :
```
Comment (sgouezel) [inline Mathlib/Topology/Compactness/CompactSystem.lean:161]: I'd replace the assumption `h` by a typeclass assumption like `[T2Space α]`. Also, this should be named `of_isCompact`. I see that this is the content of the next theorem. So, I would drop the current one, and only keep the next one (and name it `of_isCompact`).

File: Mathlib/Topology/Compactness/CompactSystem.lean [hunk 9]
```diff
@@ -0,0 +1,174 @@
...
+      by_cases g : s i ≠ univ
+      · exact hx ⟨i, g⟩
+      · simp only [ne_eq, not_not, s'] at g
+        rw [g]
+        simp only [Set.mem_univ]
+    apply g <| IsCompact.nonempty_iInter_of_directed_nonempty_isCompact_isClosed s' hs'
+      (fun j ↦ h2 j) htco htcl
+  · simp only [ne_eq, coe_setOf, nonempty_subtype, not_exists, not_not, s'] at h
+    simp only [nonempty_iInter, s', h]
+    simp only [Set.mem_univ, implies_true, exists_const, s']
```
Comment (sgouezel) [inline Mathlib/Topology/Compactness/CompactSystem.lean:154]:
```suggestion
    simp only [h, nonempty_iInter, Set.mem_univ, implies_true, exists_const]
```
You can merge the two simp calls into one.

File: Mathlib/Topology/Compactness/CompactSystem.lean [hunk 10]
```diff
@@ -0,0 +1,174 @@
...
+def max_of_empty (hp : IsCompactSystem p) (hC : ∀ i, p (C i))
+    (hC_empty : ⋂ i, C i = ∅) : ℕ :=
+  (hp C hC hC_empty).choose
+
+lemma iInter_eq_empty (hp : IsCompactSystem p) (hC : ∀ i, p (C i))
+    (hC_empty : ⋂ i, C i = ∅) :
+    Dissipate C (hp.max_of_empty hC hC_empty) = ∅ :=
+  (hp C hC hC_empty).choose_spec
+
+theorem iff_of_nempty (p : Set α → Prop) :
```
Comment (sgouezel) [inline Mathlib/Topology/Compactness/CompactSystem.lean:53]:
```suggestion
theorem iff_nonempty_iInter (p : Set α → Prop) :
```
The property is named `nonempty` in the statement, so don't try to be creative, and just use the same version in the lemma name. This makes lemmas more understandable and more discoverable. Also, `of` indicates an assumption of the lemma, which is not the case here.

File: Mathlib/Topology/Compactness/CompactSystem.lean [hunk 11]
```diff
@@ -0,0 +1,174 @@
...
+  refine ⟨fun h C hC hn ↦ ?_, fun h C hC ↦ ?_⟩ <;> have h2 := not_imp_not.mpr <| h C hC
+  · push_neg at h2
+    exact h2 hn
+  · push_neg at h2
+    exact h2
+
+/-- In this equivalent formulation for a compact system,
+note that we use `⋂ k < n, C k` rather than `⋂ k ≤ n, C k`. -/
+lemma iff_of_not_empty (p : Set α → Prop) : IsCompactSystem p ↔
+    ∀ C : ℕ → Set α, (∀ i, p (C i)) → (∀ n, ⋂ k < n, C k ≠ ∅) → ⋂ i, C i ≠ ∅ := by
```
Comment (sgouezel) [inline Mathlib/Topology/Compactness/CompactSystem.lean:65]:
```suggestion
    ∀ C : ℕ → Set α, (∀ i, p (C i)) → (∀ n, (⋂ k < n, C k).Nonempty) → (⋂ i, C i).Nonempty := by
```
`Nonempty` is the standard way to express that a set is nonempty. Then you will get a name clash with the previous one, so maybe name the current one `iff_nonempty_iInter_of_lt`.

File: Mathlib/Data/Set/Dissipate.lean [hunk 12]
```diff
@@ -0,0 +1,156 @@
...
+Authors: Peter Pfaffelhuber
+-/
+import Mathlib.Data.Set.Lattice
+import Mathlib.Order.Directed
+
+/-!
+# Dissipate
+
+The function `Dissipate` takes a set `s` and returns `⋂ y ≤ x, s y`.
+-/
```
Comment (sgouezel) [inline Mathlib/Data/Set/Dissipate.lean:13]: Could you point to `Accumulate` to show the symmetry? Also, it doesn't take a set `s`, it takes a family of sets indexed by natural numbers, if I'm reading correctly.

File: Mathlib/Data/Set/Dissipate.lean [hunk 13]
```diff
@@ -0,0 +1,156 @@
...
+theorem dissipate_def [LE α] {x : α} : Dissipate s x = ⋂ y ≤ x, s y := rfl
+
+theorem dissipate_eq {s : ℕ → Set β} {n : ℕ} : Dissipate s n = ⋂ k < n + 1, s k := by
+  simp_rw [Nat.lt_add_one_iff]
+  rfl
+
+theorem mem_dissipate [LE α] {x : α} {z : β} : z ∈ Dissipate s x ↔ ∀ y ≤ x, z ∈ s y := by
+  simp only [dissipate_def, mem_iInter]
+
+theorem dissipate_subset [Preorder α] {x y : α} (hy : y ≤ x): Dissipate s x ⊆ s y :=
```
Comment (sgouezel) [inline Mathlib/Data/Set/Dissipate.lean:33]:
```suggestion
theorem dissipate_subset [Preorder α] {x y : α} (hy : y ≤ x) : Dissipate s x ⊆ s y :=
```

File: Mathlib/Data/Set/Dissipate.lean [hunk 14]
```diff
@@ -0,0 +1,156 @@
...
+
+theorem antitone_dissipate [Preorder α] : Antitone (Dissipate s) :=
+  fun _ _ hab ↦ biInter_subset_biInter_left fun _ hz => le_trans hz hab
+
+@[gcongr]
+theorem dissipate_subset_dissipate [Preorder α] {x y} (h : y ≤ x) :
+    Dissipate s x ⊆ Dissipate s y :=
+  antitone_dissipate h
+
+theorem biInter_dissipate [Preorder α] {s : α → Set β} {x : α} :
```
Comment (sgouezel) [inline Mathlib/Data/Set/Dissipate.lean:48]: If the lemma name contains `dissipate`, the statement should also be written with it.

File: Mathlib/Data/Set/Dissipate.lean [hunk 15]
```diff
@@ -0,0 +1,156 @@
...
+    ⋂ y ≤ x, s y = ⋂ y ≤ x, ⋂ z ≤ y, s z := by
+  apply Subset.antisymm
+  · simp only [subset_iInter_iff, Dissipate]
+    exact fun i hi z hz ↦ biInter_subset_of_mem <| le_trans hz hi
+  · apply iInter_mono fun z y hy ↦ ?_
+    simp only [mem_iInter] at *
+    exact fun h ↦ hy h z <| le_refl z
+
+theorem iInter_dissipate [Preorder α] : ⋂ x, s x = ⋂ x, Dissipate s x := by
```
Comment (sgouezel) [inline Mathlib/Data/Set/Dissipate.lean:57]: Can you exchange the two sides of the equality, and make this a simp lemma? In general, we put the most complicated type on the left, since simp and rw operate from the left to the right.

File: Mathlib/Data/Set/Dissipate.lean [hunk 16]
```diff
@@ -0,0 +1,156 @@
...
+  apply Subset.antisymm <;> simp_rw [subset_def, mem_iInter, mem_dissipate]
+  · exact fun z h x' y hy ↦ h y
+  · exact fun z h x' ↦ h x' x' (le_refl x')
+
+lemma dissipate_bot [PartialOrder α] [OrderBot α] (s : α → Set β) : Dissipate s ⊥ = s ⊥ := by
```
Comment (sgouezel) [inline Mathlib/Data/Set/Dissipate.lean:62]: make it simp?

File: Mathlib/Data/Set/Dissipate.lean [hunk 17]
```diff
@@ -0,0 +1,156 @@
...
+  simp only [dissipate_def, le_bot_iff, iInter_iInter_eq_left]
+
+open Nat
+
+@[simp]
+theorem dissipate_succ (s : ℕ → Set α) (n : ℕ) :
+    ⋂ y, ⋂ (_ : y ≤ n + 1), s y = Dissipate s n ∩ s (n + 1) := by
```
Comment (sgouezel) [inline Mathlib/Data/Set/Dissipate.lean:69]: can't the left hand side also be written as a dissipate?

File: Mathlib/Data/Set/Dissipate.lean [hunk 18]
```diff
@@ -0,0 +1,156 @@
...
+    intro i hi
+    by_cases h : i ≤ n
+    · exact hx.1 i h
+    · simp only [not_le] at h
+      exact le_antisymm hi h ▸ hx.2
+
+lemma dissipate_zero (s : ℕ → Set β) : Dissipate s 0 = s 0 := by
+  simp [dissipate_def]
+
+lemma subset_of_directed {s : ℕ → Set α} (hd : Directed (fun (x1 x2 : Set α) => x1 ⊇ x2) s)
```
Comment (sgouezel) [inline Mathlib/Data/Set/Dissipate.lean:85]: This lemma is called `Set.subset_of_directed`. I'm not sure that's specific enough. What about something like `exists_subset_dissipate_of_directed`?

File: Mathlib/Data/Set/Dissipate.lean [hunk 19]
```diff
@@ -0,0 +1,156 @@
...
+      exact Eq.trans (dissipate_zero s) (hn' ▸ hn)
+    · obtain ⟨k, hk⟩ := exists_eq_succ_of_ne_zero hn'
+      rw [hk, dissipate_def, dissipate_succ, ← succ_eq_add_one, ← hk, hn, Set.inter_empty]
+  · rw [← not_imp_not]
+    push_neg
+    intro h n
+    obtain ⟨m, hm⟩ := subset_of_directed hd n
+    exact Set.Nonempty.mono hm (h m)
+
+lemma dissipate_directed {s : ℕ → Set α} :
```
Comment (sgouezel) [inline Mathlib/Data/Set/Dissipate.lean:112]:
```suggestion
lemma directed_dissipate {s : ℕ → Set α} :
```
You should follow the order of symbols in the statement to get good lemma names.

File: Mathlib/Data/Set/Dissipate.lean [hunk 20]
```diff
@@ -0,0 +1,156 @@
...
+  induction n with
+  | zero => use 0; simp
+  | succ n hn =>
+    obtain ⟨m, hm⟩ := hn
+    obtain ⟨k, hk⟩ := hd m (n+1)
+    simp_rw [dissipate_def, dissipate_succ]
+    simp at hk
+    exact ⟨k, Set.subset_inter_iff.mpr <| ⟨le_trans hk.1 hm, hk.2⟩⟩
+
+lemma dissipate_exists_empty_iff_of_directed (C : ℕ → Set α)
```
Comment (sgouezel) [inline Mathlib/Data/Set/Dissipate.lean:127]:
```suggestion
lemma exists_dissipate_eq_empty_iff_of_directed (C : ℕ → Set α)
```

File: Mathlib/Data/Set/Dissipate.lean [hunk 21]
```diff
@@ -0,0 +1,156 @@
...
+      simp_rw [hk, succ_eq_add_one, dissipate_def, dissipate_succ,
+        ← succ_eq_add_one, ← hk, hn, Set.inter_empty]
+  · rw [← not_imp_not]
+    push_neg
+    intro h n
+    obtain ⟨m, hm⟩ := mem_subset_dissipate_of_directed C hd n
+    exact Set.Nonempty.mono hm (h m)
+
+/-- For a ∩-stable attribute `p` on `Set α` and a sequence of sets `s` with this attribute,
+`p ⋂ i ≤ n, s n` holds. -/
```
Comment (sgouezel) [inline Mathlib/Data/Set/Dissipate.lean:144]: use dissipate in the docstring?

File: Mathlib/Topology/Compactness/CompactSystem.lean (hunk 2 above)
Comment (pfaffelh) [reply Mathlib/Topology/Compactness/CompactSystem.lean:48]: Done.

File: Mathlib/Topology/Compactness/CompactSystem.lean (hunk 3 above)
Comment (pfaffelh) [reply Mathlib/Topology/Compactness/CompactSystem.lean:84]: I removed a pair of brackets, and tried to reduce the number of brackets elsewhere.

File: Mathlib/Topology/Compactness/CompactSystem.lean (hunk 4 above)
Comment (pfaffelh) [reply Mathlib/Topology/Compactness/CompactSystem.lean:101]: I use `mono` now.

File: Mathlib/Topology/Compactness/CompactSystem.lean (hunk 6 above)
Comment (pfaffelh) [reply Mathlib/Topology/Compactness/CompactSystem.lean:109]: Ok, I understand, thanks! Done.

File: Mathlib/Topology/Compactness/CompactSystem.lean (hunk 7 above)
Comment (pfaffelh) [reply Mathlib/Topology/Compactness/CompactSystem.lean:157]: Done.

File: Mathlib/Topology/Compactness/CompactSystem.lean (hunk 8 above)
Comment (pfaffelh) [reply Mathlib/Topology/Compactness/CompactSystem.lean:161]: I followed your suggestion.

File: Mathlib/Topology/Compactness/CompactSystem.lean (hunk 10 above)
Comment (pfaffelh) [reply Mathlib/Topology/Compactness/CompactSystem.lean:53]: Agreed.

File: Mathlib/Topology/Compactness/CompactSystem.lean (hunk 11 above)
Comment (pfaffelh) [reply Mathlib/Topology/Compactness/CompactSystem.lean:65]: I followed your suggestion.

File: Mathlib/Data/Set/Dissipate.lean (hunk 12 above)
Comment (pfaffelh) [reply Mathlib/Data/Set/Dissipate.lean:13]: I point to `Accumualte` (and the other way round). You are right, it takes `s :  α → Set β`, which I corrected in both files.

File: Mathlib/Data/Set/Dissipate.lean (hunk 13 above)
Comment (pfaffelh) [reply Mathlib/Data/Set/Dissipate.lean:33]: Done.

File: Mathlib/Data/Set/Dissipate.lean (hunk 14 above)
Comment (pfaffelh) [reply Mathlib/Data/Set/Dissipate.lean:48]: True, changed.

File: Mathlib/Data/Set/Dissipate.lean (hunk 15 above)
Comment (pfaffelh) [reply Mathlib/Data/Set/Dissipate.lean:57]: Ok, done. I made the same with `biInter_dissipate`.

File: Mathlib/Data/Set/Dissipate.lean (hunk 16 above)
Comment (pfaffelh) [reply Mathlib/Data/Set/Dissipate.lean:62]: Done.

File: Mathlib/Data/Set/Dissipate.lean (hunk 17 above)
Comment (pfaffelh) [reply Mathlib/Data/Set/Dissipate.lean:69]: Indeed, done.

File: Mathlib/Data/Set/Dissipate.lean [hunk 22]
```diff
@@ -0,0 +1,156 @@
...
+    exact ⟨fun i hi ↦ hx i <| le_trans hi <|
+      le_add_right n 1, hx (n + 1) <| le_refl (n + 1)⟩
+  · simp only [Dissipate, mem_inter_iff, mem_iInter] at *
+    intro i hi
+    by_cases h : i ≤ n
+    · exact hx.1 i h
+    · simp only [not_le] at h
+      exact le_antisymm hi h ▸ hx.2
+
+lemma dissipate_zero (s : ℕ → Set β) : Dissipate s 0 = s 0 := by
```
[the remark this answers is not in the document]
Comment (pfaffelh) [reply Mathlib/Data/Set/Dissipate.lean:82]: Done.

File: Mathlib/Data/Set/Dissipate.lean (hunk 18 above)
Comment (pfaffelh) [reply Mathlib/Data/Set/Dissipate.lean:85]: I changed the name, and also for the following lemma.

File: Mathlib/Data/Set/Dissipate.lean [hunk 23]
```diff
@@ -0,0 +1,156 @@
...
+  simp [dissipate_def]
+
+lemma subset_of_directed {s : ℕ → Set α} (hd : Directed (fun (x1 x2 : Set α) => x1 ⊇ x2) s)
+    (n : ℕ) : ∃ m, ⋂ i ≤ n, s i ⊇ s m := by
```
[the remark this answers is not in the document]
Comment (pfaffelh) [reply Mathlib/Data/Set/Dissipate.lean:86]: Done. (I also changed x2 ⊆ x1 instead of x1 ⊇ x2 in various places.

File: Mathlib/Data/Set/Dissipate.lean (hunk 19 above)
Comment (pfaffelh) [reply Mathlib/Data/Set/Dissipate.lean:112]: Done, thanks.

File: Mathlib/Data/Set/Dissipate.lean [hunk 24]
```diff
@@ -0,0 +1,156 @@
...
+  | succ n hn =>
+    obtain ⟨m, hm⟩ := hn
+    obtain ⟨k, hk⟩ := hd m (n+1)
+    simp_rw [dissipate_def, dissipate_succ]
+    simp at hk
+    exact ⟨k, Set.subset_inter_iff.mpr <| ⟨le_trans hk.1 hm, hk.2⟩⟩
+
+lemma dissipate_exists_empty_iff_of_directed (C : ℕ → Set α)
+    (hd : Directed (fun (x1 x2 : Set α) => x1 ⊇ x2) C) :
+      (∃ n, C n = ∅) ↔ (∃ n, Dissipate C n = ∅) := by
```
[the remark this answers is not in the document]
Comment (pfaffelh) [reply Mathlib/Data/Set/Dissipate.lean:129]: Done.

File: Mathlib/Data/Set/Dissipate.lean (hunk 21 above)
Comment (pfaffelh) [reply Mathlib/Data/Set/Dissipate.lean:144]: Done.

File: Mathlib/Data/Set/Dissipate.lean (hunk 20 above)
Comment (pfaffelh) [reply Mathlib/Data/Set/Dissipate.lean:127]: Done.

**Comment by pfaffelh** [comment]
I realized that I can make some more general statements, which I now added: 
It is true in general (and not only for the set of closed and compact sets) that adding `univ` to a compact system will again give a compact system. This is now proved (and the special case uses this proof).

File: Mathlib/Data/Set/Accumulate.lean [hunk 25]
```diff
@@ -8,7 +8,11 @@ import Mathlib.Data.Set.Lattice
 /-!
 # Accumulate
 
-The function `Accumulate` takes a set `s` and returns `⋃ y ≤ x, s y`.
+The function `Accumulate` takes `s : α → Set β` with `LE α` and returns `⋃ y ≤ x, s y`.
```
Comment (sgouezel) [inline Mathlib/Data/Set/Accumulate.lean:11]: Rather, it takes a set and an element of alpha, no?

File: Mathlib/Data/Set/Dissipate.lean [hunk 26]
```diff
@@ -0,0 +1,156 @@
...
+Authors: Peter Pfaffelhuber
+-/
+import Mathlib.Data.Set.Lattice
+import Mathlib.Order.Directed
+import Mathlib.MeasureTheory.PiSystem
+
+/-!
+# Dissipate
+
+The function `Dissipate` takes `s : α → Set β` with `LE α` and returns `⋂ y ≤ x, s y`.
```
Comment (sgouezel) [inline Mathlib/Data/Set/Dissipate.lean:13]: ditto

File: Mathlib/Data/Set/Dissipate.lean [hunk 27]
```diff
@@ -0,0 +1,156 @@
...
+
+-/
+
+open Nat
+
+variable {α β : Type*} {s : α → Set β}
+
+namespace Set
+
+/-- `Dissipate s` is the intersection of `s y` for `y ≤ x`. -/
```
Comment (sgouezel) [inline Mathlib/Data/Set/Dissipate.lean]:
```suggestion
/-- `Dissipate s x` is the intersection of `s y` for `y ≤ x`. -/
```

File: Mathlib/Data/Set/Dissipate.lean [hunk 28]
```diff
@@ -0,0 +1,156 @@
...
+def Dissipate [LE α] (s : α → Set β) (x : α) : Set β :=
+  ⋂ y ≤ x, s y
+
+@[simp]
```
Comment (sgouezel) [inline Mathlib/Data/Set/Dissipate.lean]: You don't want this to be simp: otherwise, there is no point in introducing the definition.

File: Mathlib/Data/Set/Dissipate.lean [hunk 29]
```diff
@@ -0,0 +1,156 @@
...
+  simp only [dissipate_def, mem_iInter]
+
+theorem dissipate_subset [Preorder α] {x y : α} (hy : y ≤ x) : Dissipate s x ⊆ s y :=
+  biInter_subset_of_mem hy
+
+theorem dissipate_subset_iInter [Preorder α] (x : α) : ⋂ i, s i ⊆ Dissipate s x := by
+  simp only [Dissipate, subset_iInter_iff]
+  exact fun x h ↦ iInter_subset_of_subset x fun ⦃a⦄ a ↦ a
+
+theorem antitone_dissipate [Preorder α] : Antitone (Dissipate s) :=
```
Comment (sgouezel) [inline Mathlib/Data/Set/Dissipate.lean]:
```suggestion
theorem dissipate_antitone [Preorder α] : Antitone (Dissipate s) :=
```
Your naming is the logical one. But we've got an exception for `monotone` and `antitone`. I never understood why, but let's follow the convention still.

File: Mathlib/Data/Set/Dissipate.lean (hunk 14 above)
Comment (sgouezel) [reply Mathlib/Data/Set/Dissipate.lean:55]: I still don't see `dissipate` in the statement.

File: Mathlib/Data/Set/Dissipate.lean [hunk 30]
```diff
@@ -0,0 +1,156 @@
...
+    ⋂ y, ⋂ (_ : y ≤ x), ⋂ y_1, ⋂ (_ : y_1 ≤ y), s y_1 = ⋂ y, ⋂ (_ : y ≤ x), s y := by
+  apply Subset.antisymm
+  · apply iInter_mono fun z y hy ↦ ?_
+    simp only [dissipate_def, mem_iInter] at *
+    exact fun h ↦ hy h z <| le_refl z
+  · simp only [subset_iInter_iff, Dissipate]
+    exact fun i hi z hz ↦ biInter_subset_of_mem <| le_trans hz hi
+
+@[simp]
+theorem iInter_dissipate [Preorder α] : ⋂ x, ⋂ y, ⋂ (_ : y ≤ x), s y = ⋂ x, s x := by
```
Comment (sgouezel) [inline Mathlib/Data/Set/Dissipate.lean]: ditto

File: Mathlib/Data/Set/Dissipate.lean (hunk 16 above)
Comment (sgouezel) [reply Mathlib/Data/Set/Dissipate.lean:72]: I don't see it. Did you maybe forget to commit or to push?

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/Data/Set/Accumulate.lean (hunk 25 above)
Comment (pfaffelh) [reply Mathlib/Data/Set/Accumulate.lean:11]: Yes, indeed. Done.

File: Mathlib/Data/Set/Dissipate.lean (hunk 26 above)
Comment (pfaffelh) [reply Mathlib/Data/Set/Dissipate.lean:13]: Again...

File: Mathlib/Data/Set/Dissipate.lean (hunk 27 above)
Comment (pfaffelh) [reply Mathlib/Data/Set/Dissipate.lean]: True, and the same applies to `Accumulate`.

File: Mathlib/Data/Set/Dissipate.lean (hunk 28 above)
Comment (pfaffelh) [reply Mathlib/Data/Set/Dissipate.lean]: Ok, I deleted the simp attribute.

File: Mathlib/Data/Set/Dissipate.lean (hunk 29 above)
Comment (pfaffelh) [reply Mathlib/Data/Set/Dissipate.lean]: Ok, done.

File: Mathlib/Data/Set/Dissipate.lean (hunk 30 above)
Comment (pfaffelh) [reply Mathlib/Data/Set/Dissipate.lean]: Now it is there...

File: Mathlib/Data/Set/Dissipate.lean (hunk 16 above)
Comment (pfaffelh) [reply Mathlib/Data/Set/Dissipate.lean:72]: Sorry, I forgot to commit. It is a simp now.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/Data/Set/Dissipate.lean (hunk 14 above)
Comment (pfaffelh) [reply Mathlib/Data/Set/Dissipate.lean:55]: Now it is there...

**Comment by RemyDegenne** [comment]
I'm closing this PR since it has been replaced by #25899
